US07071175B1
DIBAL (25 ml, 1M in hexane) was added dropwise to a solution of 6-bis(tert-butoxycarbonyl)amino-5-vinyl-nicotinic acid ethyl ester (2.00 g, 5.1 mmol) in THF (40 ml) at 0° C. The mixture was stirred at room temperature for 1 h. NH4Cl (sat.) was added carefully followed by water, and the mixture was concentrated under reduced pressure. The residue was suspended in 5% MeOH in dichloromethane and filtered through silicagel. The filtrate was dried and concentrated under reduced pressure to give (5-hydroxymethyl-3-vinyl-pyridin-2-yl)carbamic acid tert-butyl ester (1.00 g, 78%).

reactant | DIBAL | 1M, 25 ml | CC(C)C[AlH]CC(C)C
reactant | 6-bis(tert-butoxycarbonyl)amino-5-vinyl-nicotinic acid ethyl ester | 5.1 mmol, 2.00 g | C(C)OC(C1=CN=C(C(=C1)C=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C20H28N2O6
reactant | NH4Cl | [NH4+].[Cl-]
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (5-hydroxymethyl-3-vinyl-pyridin-2-yl)carbamic acid tert-butyl ester | 1.00 g, 78% | C(C)(C)(C)OC(NC1=NC=C(C=C1C=C)CO)=O | C13H18N2O3
